US03965113
3.5 G. of 2-amino-4-(p-methylphenylthio)-1-nitrobenzene in 8 ml. concentrated hydrochloric acid is treated with a solution of 16 g. stannous chloride in 8 ml. concentrated hydrochloric acid in 20 ml. acetic acid. The mixture is heated for 1 hour on a steam bath, cooled and treated with potassium bicarbonate and chloroform. The mixture is filtered and the chloroform layer evaporated. The residue is triturated with hot cyclohexane giving 1,2-diamino-4-(p-methylphenylthio)-benzene.

reactant | 2-amino-4-(p-methylphenylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C13H12N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2-diamino-4-(p-methylphenylthio)-benzene | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)C)N | C13H14N2S
